US08404679B2
N-{(3RS,4SR)-4-(4-Chloro-phenyl)-1-[1-(3-methanesulfonyl-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
To a solution of N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(3-methylsulfanyl-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide (80 mg, 0.13 mmol) in dichloromethane (2 mL) was added under an atmosphere of nitrogen m-chloroperbenzoic acid (47 mg, 0.27 mmol) and stirred for 3 d at ambient temperature. Further addition of m-chloroperbenzoic acid (47 mg, 0.27 mmol) was followed by stirring for 3 h at ambient temperature. After the addition of an aqueous saturated solution of sodium bisulfate (10 mL) and water (10 mL) it was stirred for 1 h at ambient temperature. The reaction mixture was basified by addition of an aqueous solution of sodium carbonate (1 M). The aqueous layer was extracted with dichloromethane (20 mL) and the organic layers were washed with water (15 mL) and dried over sodium sulfate. Purification by chromatography (SiO2, heptane:(ethyl acetate:triethylamine=95:5):methanol=20:80:0 to 0:85:15) afforded the title compound (70 mg, 83%) as a light brown oil. MS m/e: 644.2 [M]+.

reactant | N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(3-methylsulfanyl-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 0.13 mmol, 80 mg | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCN(CC1)CCCSC)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C30H37ClF3N3O3S
reactant | m-chloroperbenzoic acid | 0.27 mmol, 47 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfate | 10 mL | S([O-])(O)(=O)=O.[Na+]
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | N-{(3RS,4SR)-4-(4-Chloro-phenyl)-1-[1-(3-methanesulfonyl-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 70 mg, 83% | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCN(CC1)CCCS(=O)(=O)C)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C30H37ClF3N3O5S
